US04046900
A solution of 40.5 g of 1-phenoxycarbonyl-4-(2-fluorobenzoyl)piperidine in 500 ml of ethanol and 500 ml of an aqueous 30% potassium hydroxide solution is stirred at a temperature slightly below reflux for 16 hours, allowed to cool to ambient temperature, diluted with water, and the ethanol is partially removed under reduced pressure. The resulting aqueous suspension is extracted with ether, the combined ether extracts are extracted with 1N hydrogen chloride and the aqueous acid solution is basified with an aqueous sodium hydroxide solution. The basic solution is extracted with ether, the combined ether extracts are dried and the ether is removed under reduced pressure leaving a dark oil. The oil is dissolved in a minimum amount of ethanol and ethereal-hydrogen chloride is added dropwise to effect a precipitate. The precipitate is collected by filtration, dried and recrystallized twice from an ethanol-ether mixture to give a white solid, mp 185°-187° C., 4-(2-fluorobenzoyl)piperidine hydrochloride.

reactant | 1-phenoxycarbonyl-4-(2-fluorobenzoyl)piperidine | 40.5 g | O(C1=CC=CC=C1)C(=O)N1CCC(CC1)C(C1=C(C=CC=C1)F)=O | C19H18FNO3
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-(2-fluorobenzoyl)piperidine hydrochloride | Cl.FC1=C(C(=O)C2CCNCC2)C=CC=C1 | InChI=1S/C12H14FNO.ClH/c13-11-4-2-1-3-10(11)12(15)9-5-7-14-8-6-9;/h1-4,9,14H,5-8H2;1H
